US05461067
E. N-((N-Methyl-N-((2-pyridinyl)methyl)amino)carbonyl)valine
A solution of 4.47 g (16 mmol) of N-((N-methyl-N-((2-pyridinyl)methyl)amino)carbonyl)valine methyl ester in 65 ml of dioxane was treated with 65 ml of 0.5M aqueous lithium hydroxide. After being stirred at ambient temperature for 1 h, the resulting solution was concentrated in vacuo to a small volume (ca. 5 ml), neutralized to pH 5 with 1M aqueous HCl, and extracted with three 100 ml portions of ethyl acetate. The combined organic layers were dried over Na2SO4 and concentrated in vacuo to provide 3.61 g (85%) of the desired compound as an oil.

reactant | N-((N-methyl-N-((2-pyridinyl)methyl)amino)carbonyl)valine methyl ester | 16 mmol, 4.47 g | COC([C@@H](NC(=O)N(CC1=NC=CC=C1)C)C(C)C)=O | C14H21N3O3
reactant | lithium hydroxide | 0.5M, 65 ml | [OH-].[Li+]
solvent | dioxane | 65 ml | O1CCOCC1 | C4H8O2
product | N-((N-Methyl-N-((2-pyridinyl)methyl)amino)carbonyl)valine | 3.61 g, 85% | CN(CC1=NC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)O | C13H19N3O3
